US05962458
A mixture of 4-(4-chloro-2-fluoroanilino)-7-hydroxy-6-methoxyquinazoline (600 mg, 2 mmol), (prepared as described for the starting material in Example 24), 4-chloromethyl-2-cyanopyridine hydrochloride (620 mg, 3 mmol) and potassium carbonate (1.0 g 7 mmol) in DMF (8 ml) was heated at 80° C. for 30 minutes. The mixture was allowed to cool, poured into water and extracted with ethyl acetate. The combined extracts were dried (MgSO4) and the solvent removed by evaporation and azeotroped with toluene. The residue was triturated with ethyl acetate/hexane, the solid product collected by filtration and purified by column chromatography eluting with ethyl acetate and further chromatography eluting with methylene chloride/methanol (99/1). The purified product was recrystallised from ethyl acetate/hexane to give 4-(4-chloro-2-fluoroanilino)-7-((2-cyano4-pyridyl)methoxy)-6-methoxyquinazoline (35 mg, 4%).

reactant | 4-(4-chloro-2-fluoroanilino)-7-hydroxy-6-methoxyquinazoline | 2 mmol, 600 mg | ClC1=CC(=C(NC2=NC=NC3=CC(=C(C=C23)OC)O)C=C1)F | C15H11ClFN3O2
reactant | 4-chloromethyl-2-cyanopyridine hydrochloride | 3 mmol, 620 mg | Cl.ClCC1=CC(=NC=C1)C#N
reactant | potassium carbonate | 7 mmol, 1.0 g | C([O-])([O-])=O.[K+].[K+]
reactant | water | O | H2O
solvent | DMF | 8 ml | CN(C)C=O | C3H7NO
product | 4-(4-chloro-2-fluoroanilino)-7-((2-cyano4-pyridyl)methoxy)-6-methoxyquinazoline | 35 mg, 4% | ClC1=CC(=C(NC2=NC=NC3=CC(=C(C=C23)OC)OCC2=CC(=NC=C2)C#N)C=C1)F | C22H15ClFN5O2
